US07700633B2
D. 6-Benzyloxy-2-methyl-2,3-dihydrobenzo[b]thiophen-5-yl-boronic acid
To a solution of 6-benzyloxy-5-bromo-2-methyl-2,3-dihydrobenzo[b]thiophene (1.0 g, 3.0 mmol) in THF at 0° C. is added n-BuLi (1.8 mL, 4.5 mmol, 2.5 M in hexane) and the mixture is stirred for 1.5 h at 0° C. B(OMe)3 (1.67 mL, 15 mmol) is added dropwise and it is warmed to RT and stirred for 1.5 h. 3M HCl solution is added slowly at 0° C. and EtOAc is added to extract the product. The organic phase is dried with MgSO4 and concentrated. The residue is purified by chromatography to give the title compound as a white solid: (M+H)+=301.

reactant | 6-benzyloxy-5-bromo-2-methyl-2,3-dihydrobenzo[b]thiophene | 3.0 mmol, 1.0 g | C(C1=CC=CC=C1)OC=1C(=CC2=C(SC(C2)C)C1)Br | C16H15BrOS
reactant | n-BuLi | 4.5 mmol, 2.5 M, 1.8 mL | [Li]CCCC
reactant | B(OMe)3 | 15 mmol, 1.67 mL | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 3M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Benzyloxy-2-methyl-2,3-dihydrobenzo[b]thiophen-5-yl-boronic acid | C(C1=CC=CC=C1)OC=1C(=CC2=C(SC(C2)C)C1)B(O)O | C16H17BO3S
